US07943607B2
2,4,5-Trifluoro-N-(2-hydroxyethyl)-N-methylbenzamide
2,4,5-Trifluorobenzoyl chloride (540 mg, 2.78 mmol) was added to a stirred solution of 2-methylaminoethanol (0.185 mL, 3.06 mmol) in DCM (5 mL) and 10% aqueous sodium hydroxide solution (5 mL) at 0° C. After addition was complete the icebath was removed and the reaction was allowed to warm up to RT and stirred for 3 hours. The phases were then separated and the aqueous phase extracted with DCM (3×30 mL). The combined organic layers were dried (MgSO4), filtered and evaporated to give the desired compound as a colourless oil (686 mg). This material was used without further purification.

reactant | 2,4,5-Trifluorobenzoyl chloride | 2.78 mmol, 540 mg | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | 2-methylaminoethanol | 3.06 mmol, 0.185 mL | CNCCO | C3H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 5 mL | [OH-].[Na+]
product | 2,4,5-Trifluoro-N-(2-hydroxyethyl)-N-methylbenzamide | 686 mg | FC1=C(C(=O)N(C)CCO)C=C(C(=C1)F)F | C10H10F3NO2
